US07964607B2
(a) 5-amino-3-methyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-(tetrahydro-2H-pyran-4-yl)hydrazine and 2-(1-methoxyethylidene)malononitrile provided the title compound. 400 MHz 1H NMR (CD3OD) δ 4.20 (m, 1H), 4.05 (m, 2H), 3.50 (m, 2H), 2.18 (s, 3H), 2.09 (m, 2H), 1.77 (m, 2H). MS: (M+H m/z 207.0).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-(tetrahydro-2H-pyran-4-yl)hydrazine | O1CCC(CC1)NN | C5H12N2O
reactant | 2-(1-methoxyethylidene)malononitrile | COC(C)=C(C#N)C#N | C6H6N2O
product | 5-amino-3-methyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1C1CCOCC1)C)C#N | C10H14N4O
